US06399627B1
To a solution of crude (2Z)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4-methylpent-2-enamide (190 mg, 0.379 mmol) in 10 ml 1:1 ethyl acetate:anhydrous methanol cooled to −78° C. was bubbled HCl gas until saturation was achieved. Reaction was allowed to warm to room temperature and stirred overnight. The reaction was then concentrated in vacuo and dried under hi vacuum. The dried methyl imidate residue was dissolved in 5 ml anhydrous methanol to which ammonium acetate (115 mg, 1.5 mmol) was added and the reaction heated to reflux for 2 hours. The reaction was concentrated and purified on a 2×25 cm Vydac C18 HPLC column to give 3-((1Z)-1-(methylethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)benzene carboxamidine (75 mg, 43%) as a fluffy white powder after lyophilization. ES-MS (M+H+): 463.2.

reactant | (2Z)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4-methylpent-2-enamide | 0.379 mmol, 190 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(\C=C(\C(C)C)/C1=CC(=CC=C1)C#N)=O | C29H31N3O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium acetate | 1.5 mmol, 115 mg | C(C)(=O)[O-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-((1Z)-1-(methylethyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)benzene carboxamidine | 75 mg, 43% | CC(C)/C(=C/C(NC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)=O)/C=1C=C(C=CC1)C(=N)N | C25H26N4O3S
